US07691854B2
2,2,2-Trifluoro-N-[3-(trifluoromethyl)phenyl]acetamide
3-(Trifluoromethyl)aniline (4.03 g, 25 mmol) and pyridine (4.35 g, 55 mmol) are dissolved in methylene chloride (250 ml). The solution is cooled to 0° C. and trifluoroacetic anhydride (5.3 g, 25 mmol) is added. The solution is stirred at room temperature overnight. The reaction is quenched with saturated sodium bicarbonate solution, extracted with methylene chloride, washed with saturated aqueous ammonium chloride solution and saturated aqueous copper sulphate solution. The organic phase is dried with magnesium sulphate monohydrate, filtered and concentrated in vacuo. The residue is purified by column chromatography on silica with cyclohexane/ethyl acetate 10:1 mixture as eluent.

reactant | 3-(Trifluoromethyl)aniline | 25 mmol, 4.03 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | pyridine | 55 mmol, 4.35 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 25 mmol, 5.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-[3-(trifluoromethyl)phenyl]acetamide | FC(C(=O)NC1=CC(=CC=C1)C(F)(F)F)(F)F | C9H5F6NO
